US05286736
6-[3-(N-Methyl-3-(3-indolyl)-propionylamino)-phenyl]-6-(3-pyridyl)-hex-5-enoic acid
A mixture of 1.9 g of 3-(3-indolyl)-propionic acid, 2.3 g of methyl 6-(3-methylaminophenyl)-6-(3-pyridyl)-hex-5-enoate and 1.8 g of carbonyldiimidazole is refluxed for 48 hours in 50 ml of tetrahydrofuran. The reaction mixture is evaporated down, the residue is taken up in water and extracted with ethyl acetate. The organic phase is evaporated down and the residue is saponified in a mixture of 20 ml of ethanol and 6 ml of 4N sodium hydroxide solution at 50° C. for 30 minutes. The reaction mixture is neutralised by the addition of citric acid and extracted with ethyl acetate. The organic phase is concentrated by evaporation and the residue is recrystallised from ethyl acetate/diisopropylether.

reactant | 3-(3-indolyl)-propionic acid | 1.9 g | N1C=C(C2=CC=CC=C12)CCC(=O)O | C11H11NO2
reactant | methyl 6-(3-methylaminophenyl)-6-(3-pyridyl)-hex-5-enoate | 2.3 g | CNC=1C=C(C=CC1)C(=CCCCC(=O)OC)C=1C=NC=CC1 | C19H22N2O2
reactant | carbonyldiimidazole | 1.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 6-[3-(N-Methyl-3-(3-indolyl)-propionylamino)-phenyl]-6-(3-pyridyl)-hex-5-enoic acid | CN(C=1C=C(C=CC1)C(=CCCCC(=O)O)C=1C=NC=CC1)C(CCC1=CNC2=CC=CC=C12)=O | C29H29N3O3
